US07045545B1
N-tert-butoxycarbonyl 1-(2-bromo-5-fluorobenzofur-7-yl)-2-aminopropane
To a solution of 0.50 gm (1.71 mMol) N-tert-butoxycarbonyl 1-(5-fluorobenzofur-7-yl)-2-aminopropane in 17 mL tetrahydrofuran at −78° C. were added 2.4 mL (3.84 mMol) n-butyllithium (1.6 M in hexane) dropwise. The resulting mixture was stirred for 1.5 hour and then 0.16 mL (1.86 mMol) dibromoethane were added. After stirring for an additional hour the reaction mixture was poured into a mixture of 25 mL saturated aqueous sodium bicarbonate and 50 mL diethyl ether. The phases were separated and the organic phase was washed with saturated aqueous sodium chloride. All aqueous phases were combined and extracted with 50 mL diethyl ether. All organic phases were combined, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with a gradient of hexane containing from 0 to 15% ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 0.53 gm (89%) of the desired compound.

reactant | N-tert-butoxycarbonyl 1-(5-fluorobenzofur-7-yl)-2-aminopropane | 1.71 mMol, 0.50 gm | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=COC21)F)C | C16H20FNO3
reactant | n-butyllithium | 3.84 mMol, 1.6 M, 2.4 mL | C(CCC)[Li]
reactant | dibromoethane | 1.86 mMol, 0.16 mL | BrC(C)Br | C2H4Br2
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 17 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | N-tert-butoxycarbonyl 1-(2-bromo-5-fluorobenzofur-7-yl)-2-aminopropane | 0.53 gm, 89% | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=C(OC21)Br)F)C | C16H19BrFNO3
